US07381719B2
3-Isopropylidene-1-(4-methoxy-benzyl)-piperidine
Combine 2-{1-(4-Methoxy-benzyl)-piperidin-3-yl]-propan-2-ol (0.564 g, 2.14 mmol) and 1:1 Et3SiH:TFA (8 mL) at room temperature. Reflux the reaction for 72 hours under a Nitrogen atmosphere and then concentrate under reduced pressure and flash chromatograph using 3% 1N NH3-MeOH in CH2Cl2 to give 400.0 mg (76% yield) of the title compound: 1H NMR (500 MHz, CDCl3); 1.5-1.6 (8H, d), 2.2 (2H, t), 2.5 (2H, br s), 3.0 (2H, br s), 3.5 (2H, br s), 3.8 (3H, s), 6.8 (2H, d), 7.2 (2H, d); MS m/z 246

reactant | 2-{1-(4-Methoxy-benzyl)-piperidin-3-yl]-propan-2-ol | 2.14 mmol, 0.564 g | COC1=CC=C(CN2CC(CCC2)C(C)(C)O)C=C1 | C16H25NO2
reactant | Et3SiH | [SiH](CC)(CC)CC | C6H16Si
reactant | TFA | 8 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 3-Isopropylidene-1-(4-methoxy-benzyl)-piperidine | 400.0 mg, 76% yield | C(C)(C)=C1CN(CCC1)CC1=CC=C(C=C1)OC | C16H23NO
